US08314092B2
Charge 5% platinum(S)/charcoal (2.5 g), and ethyl 1-(5-chloro-2-nitrobenzyl)-4-methyl-1H-pyrrole-2-carboxylate (16.0 g, 49.57 mmoles) to a 500 mL Parr bottle. Add ethanol (200 mL) then zinc dibromide (0.22 equiv; 2.46 g, 10.91 mmoles) and place the mixture under hydrogen at 275.8 kPa and hydrogenate at room temperature overnight, monitoring formation of a partially hydrogenated intermediate. Remove the Parr bottle, heat gently in a water bath to dissolve the crystallized material, and filter through celite. Combine with the filtrate from an identical run and evaporate to give ethyl 1-(2-amino-5-chlorobenzyl)-4-methyl-1H-pyrrole-2-carboxylate an off-white solid. Place under high vacuum to remove residual ethanol to give the material (35 g, quantitative). MS (m/z): 293.1 (M+1).

reactant | ethyl 1-(5-chloro-2-nitrobenzyl)-4-methyl-1H-pyrrole-2-carboxylate | 49.57 mmoles, 16.0 g | ClC=1C=CC(=C(CN2C(=CC(=C2)C)C(=O)OCC)C1)[N+](=O)[O-] | C15H15ClN2O4
catalyst | zinc dibromide | 10.91 mmoles, 2.46 g, 0.22 equiv | [Br-].[Br-].[Zn+2]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 1-(2-amino-5-chlorobenzyl)-4-methyl-1H-pyrrole-2-carboxylate | NC1=C(CN2C(=CC(=C2)C)C(=O)OCC)C=C(C=C1)Cl | C15H17ClN2O2
